US07531663B2
1.25 g (13.09 mmol) of guanidine hydrochloride are added to a solution of 0.71 mg (13.14 mmol) of sodium methoxide in 10 cm3 of methanol at a temperature in the region of 22° C. under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 2 hours, the solvent is evaporated off under reduced pressure (2.7 kPa). The residue, placed under an argon atmosphere, is taken up in 20 cm3 of a tetrahydrofuran/dichloromethane (1/1 by volume) mixture and then 0.9 g (2.62 mmol) of 3-chlorocarbonyl-1-(quinol-8-yl)-1H-indole hydrochloride, dissolved in 5 cm3 of the same tetrahydrofuran/dichloromethane mixture, is added thereto. After 15 hours at a temperature in the region of 22° C. and then heating at a temperature in the region of 60° C. with stirring for 1.5 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in dichloromethane. The insoluble material is then filtered off and discarded, and the filtrate is concentrated under reduced pressure (2.7 kPa). The residue obtained is taken up in an ethyl acetate/methanol (8/2 by volume) mixture and the resulting precipitate is filtered off. A white solid is obtained, which solid is crystallised under hot conditions from 10 cm3 of ethanol. The crystals formed are filtered off and dried under vacuum (2.7 kPa) to give 0.51 g of 3-guanidinocarbonyl-1-(quinol-8-yl)-1H-indole in the form of white crystals melting at 172° C. Mass spectrum (EI): m/e 329 (M+·), m/e 271.

reactant | guanidine hydrochloride | 13.09 mmol, 1.25 g | Cl.NC(=N)N
reactant | sodium methoxide | 13.14 mmol, 0.71 mg | C[O-].[Na+]
reactant | 3-chlorocarbonyl-1-(quinol-8-yl)-1H-indole hydrochloride | 2.62 mmol, 0.9 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1C=CC=C2C=CC=NC12
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | methanol | 10 cm3 | CO | CH4O
solvent | tetrahydrofuran dichloromethane | 5 cm3 | O1CCCC1.ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-guanidinocarbonyl-1-(quinol-8-yl)-1H-indole | 0.51 g | N(C(=N)N)C(=O)C1=CN(C2=CC=CC=C12)C=1C=CC=C2C=CC=NC12 | C19H15N5O
